US08710046B2
Tetrabutylammonium chloride (100 mg, 0.4 mmol), trimethyl(prop-1-ynyl)silane (1.1 ml, 7.2 mmol), methyl 2-amino-5-chloro-3-iodobenzoate (1.0 g, 3.6 mmol), triphenylphosphine (47.2 mg, 0.1 mmol), palladium(II) acetate (20 mg, 0.1 mmol) and sodium carbonate (1.9 g, 18 mmol) in DMF were added to a sealed tube and the reaction was stirred at 100° C. for 15 h: After cooling to room temperature, the reaction mixture was diluted with ether and washed with saturated aqueous ammonium chloride and water. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude material was then purified by column chromatography (silica gel, 70:30 hexanes/ethyl acetate) to afford methyl 5-chloro-3-methyl-2-(trimethylsilyl)-1H-indole-7-carboxylate (620 mg, 59%) as a light yellow solid: 1H NMR (500 MHz, CDCl3) δ 9.50 (s, 1H), 7.80 (d, J=1.0 Hz, 1H), 7.72 (d, J=1.0 Hz, 1H), 3.98 (s, 3H), 2.37 (s, 3H), 0.40 (t, 9H); MS (ESI+) m/z 296 (M+H).

reactant | trimethyl(prop-1-ynyl)silane | 7.2 mmol, 1.1 ml | C[Si](C#CC)(C)C | C6H12Si
reactant | methyl 2-amino-5-chloro-3-iodobenzoate | 3.6 mmol, 1.0 g | NC1=C(C(=O)OC)C=C(C=C1I)Cl | C8H7ClINO2
reactant | sodium carbonate | 18 mmol, 1.9 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrabutylammonium chloride | 0.4 mmol, 100 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | palladium(II) acetate | 0.1 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.1 mmol, 47.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | methyl 5-chloro-3-methyl-2-(trimethylsilyl)-1H-indole-7-carboxylate | 620 mg, 59% | ClC=1C=C2C(=C(NC2=C(C1)C(=O)OC)[Si](C)(C)C)C | C14H18ClNO2Si
